US07589109B2
Step 1. N-benzoyl-4-tert-butoxycarbonylaminomethyl-4-fluoropiperidine
A mixture of N-benzoyl-4-aminomethyl-4-fluoropiperidine (J. Med. Chem. 1999, 42, 1648-1660.) (3.54 g, 15.0 mmol) and di-tert-butyl dicarbonate (4.91 g, 22.5 mmol) in methanol (80 mL) was stirred at room temperature for 15 h and concentrated in vacuo. The resulting residue was chromatographed on a column of silica gel eluting with hexane/ethyl acetate (1:1) to give 4.52 g (89%) of the title compound as colorless oil.

reactant | N-benzoyl-4-aminomethyl-4-fluoropiperidine | 15.0 mmol, 3.54 g | C(C1=CC=CC=C1)(=O)N1CCC(CC1)(F)CN | C13H17FN2O
reactant | di-tert-butyl dicarbonate | 22.5 mmol, 4.91 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 80 mL | CO | CH4O
product | N-benzoyl-4-tert-butoxycarbonylaminomethyl-4-fluoropiperidine | 4.52 g, 89% | C(C1=CC=CC=C1)(=O)N1CCC(CC1)(F)CNC(=O)OC(C)(C)C | C18H25FN2O3
